US07199239B2
[2-Methyl-4-({propyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetic acid
To a solution of ethyl [2-methyl-4-({propyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate (88 mg, 0.18 mmol) in MeOH (2 ml) and THF (2 mL) at room temperature was added 2M NaOH (1 mL, 2 mmol). The resultant solution was stirred for 1 h, then the solvents were removed in vacuo. The residue was diluted with HCl (10 mL) and extracted with CH2Cl2 (2×10 mL), followed by EtOAc (2×10 mL). The organic solutions were dried (MgSO4) and the solvents were removed in vacuo affording the title compound as a white crystalline solid (64.1 mg).

reactant | ethyl [2-methyl-4-({propyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 0.18 mmol, 88 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCC | C28H30F3NO3
reactant | NaOH | 2 mmol, 2M, 1 mL | [OH-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [2-Methyl-4-({propyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetic acid | 64.1 mg | CC1=C(OCC(=O)O)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCC | C26H26F3NO3
